US08303844B2
54.7 g (about 0.12 mol) of 7,8-difluoro-3-trimethylsilanylnaphthalen-2-ol are stirred at 80° C. for 19 h together with 19.5 ml (0.26 mol) of bromoethane and 34.5 g (0.25 mol) of potassium carbonate in 400 ml of ethyl methyl ketone. The batch is filtered, and the residue is washed with ethyl methyl ketone. The filtrate is concentrated, and the residue is taken up in MTBE. The solution is washed with water and sat. sodium chloride soln. and dried using sodium sulfate. The residue remaining after removal of the solvent is purified by column chromatography (SiO2, toluene:ethyl acetate=9:1), giving (3-ethoxy-5,6-difluoronaphthalen-2-yl)trimethylsilane as a dark-brown solid.

reactant | 7,8-difluoro-3-trimethylsilanylnaphthalen-2-ol | about 0.12 mol, 54.7 g | FC1=CC=C2C=C(C(=CC2=C1F)O)[Si](C)(C)C | C13H14F2OSi
reactant | bromoethane | 0.26 mol, 19.5 ml | BrCC | C2H5Br
reactant | potassium carbonate | 0.25 mol, 34.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl methyl ketone | 400 ml | CC(=O)CC | C4H8O
product | (3-ethoxy-5,6-difluoronaphthalen-2-yl)trimethylsilane | C(C)OC=1C(=CC2=CC=C(C(=C2C1)F)F)[Si](C)(C)C | C15H18F2OSi
